US06403602B1
A modification of the method of Welsh (1954) was utilized. Morphine free base (1 am, 3.50 mmol) was suspended in saturated sodium bicarbonate solution (50 ml), and to the stirred suspension was added drop-wise an excess of acetic anhydride (1 ml, 10.6 mmol). The resulting solution was extracted with chloroform (6×10 ml) and the combined organic extracts were dried over anhydrous magnesium sulfate. Following filtration the solvent was removed by rotary evaporation under reduced pressure to afford 1.14 gm (100%) of 3O-acetylmorphine as a glassy white amorphous solid. The product was homogeneous by TLC (CHCl3:MeOH (9:1), Rf=0.85). Elemental Analysis Calcd. for C19H21NO4: C, 69.73, H, 6.42; N, 4.28. Found: C, 69.71;, H,6.40; N, 4.32.)

reactant | Morphine | C1=CC(O)=C2C=3[C@@]45[C@@H](O2)[C@@H](O)C=C[C@H]4[C@@H](CC13)N(C)CC5 | C17H19NO3
reactant | acetic anhydride | 10.6 mmol, 1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
product | 3O-acetylmorphine | 1.14 gm, 100% | C(C)(=O)OC=1C=CC=2C[C@@H]3[C@@H]4C=C[C@@H]([C@H]5[C@@]4(C2C1O5)CCN3C)O | C19H21NO4
